US07381719B2
Mix 4-hydroxybenzaldehyde (1.23 g, 10.1 mmol), imidazole (1.37 g, 20.2 mmol), and triisopropylsilyl chloride (2.60 mL, 12.1 mmol) in DMF (10 mL) and stir at room temperature for 2 hours. Quench the reaction with saturated aqueous NH4Cl (50 mL) and extract with EtOAc (3×100 mL). Wash the organic layers with H2O and brine (50 mL each). Combine the organic layers, dry over MgSO4, concentrate and purify by flash chromatography, eluting with 2.5% Et2O/hexanes to afford 4-triisopropylsilyloxybenzaldehyde (2.78 g, 99%).

reactant | 4-hydroxybenzaldehyde | 10.1 mmol, 1.23 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | imidazole | 20.2 mmol, 1.37 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 12.1 mmol, 2.60 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-triisopropylsilyloxybenzaldehyde | 2.78 g, 99% | C(C)(C)[Si](OC1=CC=C(C=O)C=C1)(C(C)C)C(C)C | C16H26O2Si
